### PR TITLE
Add relevant parts of mechanisation of Bailitis' Bachelor's thesis

### PR DESCRIPTION
**Pull request by Janis-Bai**
As part of this pull request, the Rocq development of Janis Bailitis' Bachelor's thesis at the programming systems lab shall be contributed to the Rocq Library of First-Order Logic. This contribution consists of two parts: Firstly, A mechanisation of Hilbert systems for FO alongside equivalence proof to ND (in `theories/HilbertSystem`). Secondly, a mechanisation of Gödel's first incompleteness theorem and Tarski's theorem via Carnap's diagonal lemma (added to previous development in `theories/Incompleteness`). This part of the mechanisation also contains a generalisation of $\mathsf{CT}_\mathsf{Q}$ (see `theories/Incompleteness/ctq.v`) to functions taking multiple arguments, contained in the file  `theories/Incompleteness/multivariate_ctq.v`.

It may be the case that the files do not match guidelines with respect to code formatting. If so, please point this out.

### CODE REVIEW

File: theories/Incompleteness/formula_deduction_utils.v [hunk 1]
```diff
@@ -0,0 +1,131 @@
...
+Proof.
+    intro HBound. eapply bounded_subst; first eassumption.
+    intros k Hk. destruct k; first easy.
+    destruct k; first easy. lia.
+Qed.
+
+Inductive aand (P Q R : Prop) :=
+      cconj : P -> Q -> R -> aand P Q R.
+
+Lemma form_inv {Σ_funcs : funcs_signature} {Σ_preds : preds_signature} {ops : operators} {flag : falsity_flag} phi1 phi2 :
```
Comment (JoJoDeveloping) [inline theories/Incompleteness/formula_deduction_utils.v]: this is not necessary (see below)

File: theories/Incompleteness/formula_deduction_utils.v [hunk 2]
```diff
@@ -0,0 +1,131 @@
...
+Lemma subst_bound_2 {Σ_funcs : funcs_signature} {Σ_preds : preds_signature} {ops : operators} {flag : falsity_flag} 
+    (ψ: form) (x y: term) (sigma: nat -> term):
+    bounded 2 ψ -> ψ[x .: y..] = ψ[x .: y .: sigma].
+Proof.
+    intro HBound. eapply bounded_subst; first eassumption.
+    intros k Hk. destruct k; first easy.
+    destruct k; first easy. lia.
+Qed.
+
+Inductive aand (P Q R : Prop) :=
```
Comment (JoJoDeveloping) [inline theories/Incompleteness/formula_deduction_utils.v]: Why would you use this over `(P /\ (Q /\ R))`?

File: theories/Incompleteness/formula_deduction_utils.v [hunk 3]
```diff
@@ -0,0 +1,131 @@
...
+        forall (φ ψ: form), {τ & ψ = τ → φ} + ({τ & ψ = τ → φ} -> False).
+    Proof.
+        intros φ ψ. destruct ψ as [| ff P ts | ff b τ χ | ff q τ].
+            * right. intros [τ Hτ]. congruence.
+            * right. intros [τ Hτ]. congruence.
+            * destruct b. 1-2: right; intros [τ' Hτ']; congruence.
+              destruct (dec_form _ _ _ _  χ φ).
+                + left. exists τ. congruence.
+                + right. intros [τ' Hτ']. apply n.
+                  destruct ff; eapply form_inv in Hτ' as []; congruence.
```
Comment (JoJoDeveloping) [inline theories/Incompleteness/formula_deduction_utils.v]: to avoid building your own injection principles, you can do this: 
```
injection Hτ'. intros H1 _.
unshelve eapply EqDec.inj_right_pair. 2: exact H1.
intros ??. apply dec_falsity.
```

File: theories/Incompleteness/formula_deduction_utils.v [hunk 4]
```diff
@@ -0,0 +1,131 @@
...
+      all: destruct b; econstructor; eauto.
+Qed.
+
+Section Formula_facts.
+
+    Existing Instance PA_funcs_signature.
+    Existing Instance PA_preds_signature.
+    Existing Instance full_operators.
+
+    Definition impl_dec {ff: falsity_flag}:
```
Comment (JoJoDeveloping) [inline theories/Incompleteness/formula_deduction_utils.v]: what is this lemma needed for, actually?

File: theories/Incompleteness/diagonal_lemma.v [hunk 5]
```diff
@@ -0,0 +1,191 @@
...
+From Undecidability.Synthetic Require Import Definitions EnumerabilityFacts DecidabilityFacts SemiDecidabilityFacts.
+
+From Equations Require Import Equations.
+Require Equations.Type.DepElim.
+
+From FOL Require Import FullSyntax Arithmetics.
+
+(** Gödelisation of formulas *)
+Class goedelisation {ops: operators} {ff: falsity_flag} {fns: funcs_signature} {prs: preds_signature}:=
+     {g: form -> nat; f: nat -> form; inv_fg: forall x, x = f (g x)}. (** If we define this underneath the imports, strange errors occur. *)
```
Comment (JoJoDeveloping) [inline theories/Incompleteness/diagonal_lemma.v:11]: This is because `fol_utils` imported below defines the notation
```
Notation "I ; rho '⊨' phi" := ...
```
which makes `;` be a different kind of token (or something like that), which breaks record definitions. This notation should be changed to `;;`, I can do that after merging.

File: theories/Incompleteness/limitative_theorems.v [hunk 6]
```diff
@@ -0,0 +1,272 @@
...
+      - apply R. apply HGR. intros HTrue.
+        assert (interp_nat ⊨= true_N[(quine_quote G)..]) as HTrue'.
+        intros ρ. eapply sat_closed. 2: eapply HTrue.
+        eapply subst_bounded_max. 2: eassumption.
+        { intros [| i] Hi; last lia. now apply qq_closed. }
+        apply R. now apply HRepr.
+    Qed.
+      
+End Tarski.
+ (** TODO get Tarski's Theorem via Loeb's reasoning *)
```
Comment (JoJoDeveloping) [inline theories/Incompleteness/limitative_theorems.v]: is this still a TODO?

File: theories/Incompleteness/abstract_loeb.v [hunk 7]
```diff
@@ -0,0 +1,125 @@
...
+
+(** * Löb's Theorem *)
+
+Existing Instance PA_funcs_signature.
+Existing Instance PA_preds_signature.
+Existing Instance full_operators.
+Existing Instance falsity_on.
+
+Instance eqdec_funcs : EqDec PA_funcs_signature.
+Proof. intros x y; decide equality. Qed.
```
Comment (JoJoDeveloping) [inline theories/Incompleteness/abstract_loeb.v:20]: note to self: we need to organize these instances somewhere. We can't have each file redefine them, that leads to a bunch of duplicated instances in files downstream of both.

File: theories/Incompleteness/multivariate_ctq.v [hunk 8]
```diff
@@ -0,0 +1,196 @@
...
+    (** Given f and a vector [x1; x2; ...; xn], computes f x1 x2 ... xn *)
+    Definition vector_eval (n: nat) (f: n_plus_one_ary_function n) (nums: t nat (S n)) := 
+        nat_rec (fun m : nat => n_plus_one_ary_function m -> t nat (S m) -> nat)
+        (fun f nums => f (hd nums))
+        (fun n IH f nums => IH (f (hd nums)) (tl nums)) n f nums.
+
+    Lemma embed_eval_interchange n x y nums (f: n_plus_one_ary_function (S n)):
+        vector_eval f (x::y::nums) = vector_eval (arg_embed f) (embed' (x, y) :: nums).
+    Proof.
+        Opaque embed'. Opaque unembed'.
```
Comment (JoJoDeveloping) [inline theories/Incompleteness/multivariate_ctq.v]: If you have to mark things as `Opaque`, please do so outside of `Proof`s. This is because the effect of `Opaque` does not end at the `Qed.`, but only at the end of the file.

Also, please prefer using `cbn -[embed' unembed']` wherever possible. The only place where you actually need to use `Opaque` is around the `fspecialize (HReprψ $0)` call in line 170, because `fspecialize` somewhat annoyingly called `cbn`.

Comment (JoJoDeveloping) [reply theories/Incompleteness/multivariate_ctq.v]: also make it `#[local] Opaque foo`. That is the default anyways but makes it explicit that it is local.

**Review by JoJoDeveloping — COMMENTED** [review]
Thanks a lot for your PR, and sorry for not reacting to this earlier. I have some slight nits in some parts of the proof, but overall it looks good enough.

Just to be sure I understand correctly, the Hilbert System definition currently is not used anywhere else, is it?

File: theories/Incompleteness/diagonal_lemma.v (hunk 5 above)
Comment (JoJoDeveloping) [reply theories/Incompleteness/diagonal_lemma.v:11]: @dominik-kirst do you have opinion on what the notation should be changed to?

**Comment by Janis-Bai** [comment]
Thank you very much for reviewing the PR, @JoJoDeveloping.




> Just to be sure I understand correctly, the Hilbert System definition currently is not used anywhere else, is it?

It's not used elsewhere (apart from the proof that the Hilbert System is equivalent to natural deduction). It will come in handy when the mechanisation is extended by internal provability predicates (something we expect to be working on in the future). And also it's nice to have Hilbert Systems in a logic-related library.

I will come back to the other points in due course, but I'm quite busy right now.

File: theories/Incompleteness/formula_deduction_utils.v (hunk 2 above)
Comment (Janis-Bai) [reply theories/Incompleteness/formula_deduction_utils.v]: At some point, this construction (and the subsequent lemma `form_inv`) was suggested by Yannick Forster to circumvent some strange issues with inversions (see also https://github.com/uds-psl/coq-library-undecidability/issues/222). It's actually not needed in the mechanisation and I've removed it.

File: theories/Incompleteness/formula_deduction_utils.v (hunk 3 above)
Comment (Janis-Bai) [reply theories/Incompleteness/formula_deduction_utils.v]: Also here, this injction lemma was superfluous and I've removed it.

Comment (Janis-Bai) [reply theories/Incompleteness/formula_deduction_utils.v]: But thanks for the hint, anyways.

File: theories/Incompleteness/formula_deduction_utils.v (hunk 4 above)
Comment (Janis-Bai) [reply theories/Incompleteness/formula_deduction_utils.v]: This lemma is superfluous and a legacy from earlier versions of the code. I've removed it.

File: theories/Incompleteness/limitative_theorems.v (hunk 6 above)
Comment (Janis-Bai) [reply theories/Incompleteness/limitative_theorems.v]: It would be a nice-to-have addition to the code, but it's far from essential and the code can be merged without implementing it. I've removed the comment. If I have time, I may open (and self-assign) an issue for this, but the priority is very low.

File: theories/Incompleteness/multivariate_ctq.v (hunk 8 above)
Comment (Janis-Bai) [reply theories/Incompleteness/multivariate_ctq.v]: I have refactored the code in `multivariate_ctq.v` in a way that `Opaque` is not needed anymore (see commit [d13df63](https://github.com/uds-psl/coq-library-fol/pull/8/commits/d13df639953f88aebdc27c7a8de8fd954d71bb14)). However, this causes one slightly ugly situation in line 142 where I needed to use `cbn` in the assumption `H` to make get the subsequent `rewrite` to work. The context in line 142 is therefore cluttered with all the unfolded definitions of `embed'` and not nice to look at.

File: theories/Incompleteness/diagonal_lemma.v (hunk 5 above)
Comment (Janis-Bai) [reply theories/Incompleteness/diagonal_lemma.v:11]: Thanks for the explanation, that makes sense.

File: theories/Incompleteness/multivariate_ctq.v (hunk 8 above)
Comment (JoJoDeveloping) [reply theories/Incompleteness/multivariate_ctq.v]: Such things are sadly normal in larger Rocq developments and are preferable since they are more local (unlike `Opaque`). Thanks for doing a refactor!

**Comment by Janis-Bai** [comment]
Apologies for the extremely late reply, but I finally had the time to have a look at your suggestions; see the comments above.

**Comment by JoJoDeveloping** [comment]
LGTM. Thanks a lot for addressing the reviews :tada:

**Comment by Janis-Bai** [comment]
Great, thanks for merging and reviewing the code!

File: theories/Incompleteness/diagonal_lemma.v (hunk 5 above)
Comment (JoJoDeveloping) [reply theories/Incompleteness/diagonal_lemma.v:11]: Addressed in 4be1964.
